US04371644
1,2,3-tris[2-hydroxy-3-(7,7,9,9-tetramethyl-3-octyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-8-yl)propoxy]propane (Compound No. 349)
A mixture of 11.0 g of 7,7,9,9-tetramethyl-3-octyl-1,3,8-triazaspiro[4.5]decane-2,4-dione and 2.6 g of glycerol tris(2,3-epoxypropyl)ether in 10 ml of octanol was heated at 180° C. for 30 hours. After completion of the reaction, the reaction mixture was purified by column chromatography through silica gel eluted with ethyl acetate, giving the desired Compound No. 349 in the form of a colourless oil. The compound had an Rf value of 0.54 on thin-layer chromatography on silica gel when developed with a 10:1 by volume mixture of ethyl acetate and triethylamine.

reactant | 7,7,9,9-tetramethyl-3-octyl-1,3,8-triazaspiro[4.5]decane-2,4-dione | 11.0 g | CC1(CC2(C(N(C(N2)=O)CCCCCCCC)=O)CC(N1)(C)C)C | C19H35N3O2
reactant | glycerol tris(2,3-epoxypropyl)ether | 2.6 g | O1C(COCC(OCC2CO2)COCC2CO2)C1 | C12H20O6
solvent | octanol | 10 ml | C(CCCCCCC)O | C8H18O
product | 1,2,3-tris[2-hydroxy-3-(7,7,9,9-tetramethyl-3-octyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-8-yl)propoxy]propane | OC(COCC(COCC(CN1C(CC2(C(N(C(N2)=O)CCCCCCCC)=O)CC1(C)C)(C)C)O)OCC(CN1C(CC2(C(N(C(N2)=O)CCCCCCCC)=O)CC1(C)C)(C)C)O)CN1C(CC2(C(N(C(N2)=O)CCCCCCCC)=O)CC1(C)C)(C)C | C69H125N9O12
